Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
grass
 
Attending: ___.
 
Chief Complaint:
Pain control ___ laparoscopic assisted vaginal hysterectomy, 
bilateral salpingectomy, cystoscopy for symptomatic uterine 
fibroids.

 
Major Surgical or Invasive Procedure:
Laparoscopic assisted vaginal hysterectomy, bilateral 
salpingectomy, cystoscopy

 
Physical Exam:
Gen: well appearing, NAD
CV: RRR
Resp: CTAB, nl work of breathing
Abd: soft, approp tender with increased tenderness surrounding
umbilical incision. Mildly distended. No rebound or guarding.
Umbilical incision saturated with red blood, replaced this
morning. 
GU: Scant spotting on pad. Foley in place draining clear, yellow
urine
Ext: nontender, no edema

 
Pertinent Results:
___ 05:21PM BLOOD WBC-12.6* RBC-3.92 Hgb-9.7* Hct-30.5* 
MCV-78* MCH-24.7* MCHC-31.8* RDW-15.2 RDWSD-42.3 Plt ___
___ 12:00AM BLOOD WBC-11.0* RBC-3.75* Hgb-8.9* Hct-29.2* 
MCV-78* MCH-23.7* MCHC-30.5* RDW-15.1 RDWSD-42.7 Plt ___
___ 12:00AM BLOOD Neuts-84.9* Lymphs-7.7* Monos-6.9 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-9.31* AbsLymp-0.84* 
AbsMono-0.76 AbsEos-0.00* AbsBaso-0.01
 
Brief Hospital Course:
Ms. ___ was admitted to the Gynecology service on post 
operatively for pain management after a laparoscopic assisted 
vaginal hysterectomy, bilateral salpingectomy, and cystoscopy 
for symptomatic uterine fibroids. 

Intraoperatively, patient was found to have surgical absence of 
right tube, normal ovaries bilaterally and a fibroid uterus with 
extensive adhesions of bladder and omentum. No complications. 
Estimated Blood Loss was 400 mL. In the PACU, patient was 
triggered for pain and tachycardia to the 130s. She received 30 
toradol, 1.3 IV dilaudid, 10 oxy, 1 g Tylenol, 0.5 IV Ativan, 
presidex and is rating
abdominal pain ___.  No CP or SOB.  VB minimal.  Hct post op 
was 30 (from 34 pre-operatively). EKG within normal limits. 
Given benign physical exam findings, stable HCT, there was low 
suspicion for intra abdominal bleed or any acute process. Due to 
pain, patient was admitted to the floor on IV Dilaudid and 
Toradol. Patient failed TOV in PACU and a foley was placed.

On POD#1, patient able to tolerate PO intake, ambulate. Patient 
was transitioned from IV pain medication to PO 
dilaudid/ibuprofen/acetaminophen. Foley was discontinued in the 
afternoon after adequate voiding trial. At this time, patient 
was deemed medically stable, having reached all post op 
milestones. Patient was discharged to home with return 
precautions and close follow up.
 
Medications on Admission:
AZELASTINE - azelastine 0.15 % (205.5 mcg) nasal spray. 2 puffs
each nostril twice a day -  (On Hold from ___ to unknown
per order of ___ for ___ sinus surgery)
BUDESONIDE - budesonide 0.5 mg/2 mL suspension for nebulization.
Take one respule add to Neilmed bottle then irrigate one nostril
with half bottle on one side and repeat on the other side once a
day
FLUTICASONE - fluticasone 50 mcg/actuation nasal
spray,suspension. ___ sprays nas bid x 2 weeks or so -  (On Hold
from ___ to unknown per order of ___
for ___ sinus surgery)
IBUPROFEN - ibuprofen 600 mg tablet. 1 tablet(s) by mouth q 6
hours as needed for pain
NAPROXEN - naproxen 500 mg tablet. 1 tablet(s) by mouth twice a
day as needed for pain; take with food
OXYCODONE - oxycodone 5 mg tablet. ___ tablet(s) by mouth q 4
hours as needed for severe pain
CHOLECALCIFEROL (VITAMIN D3) [VITAMIN D3] - Dosage uncertain - 
(Prescribed by Other Provider; daily)
DOCUSATE SODIUM - docusate sodium 100 mg capsule. 1 capsule(s) 
by
mouth twice a day as needed for constipation
FERROUS SULFATE - ferrous sulfate 325 mg (65 mg iron) tablet. 1
tablet(s) by mouth daily
MULTIVITAMIN - multivitamin tablet. 1 tablet(s) by mouth once 
per
day
 
Discharge Medications:
Docusate Sodium 100 mg PO BID 
PO dilaudid
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Uterine Fibroids

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over your 
incisions; no scrubbing of incision. No tub baths for 6 weeks.
* Since you have steri-strips, leave them on. They will fall off 
on their own or be removed during your followup visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

For prevention of constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___